Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
morphine / Demerol / paper tape
 
Attending: ___.
 
Chief Complaint:
 Right lower extremity limb ischemia
 
Major Surgical or Invasive Procedure:
thrombectomy, PTA/stent R SFA occlusion w distal embolic filter 

 
History of Present Illness:
History Present Illness: ___ w/ h/o Ewing sarcoma status post 
radiation and resection ___ years ago who presented to the ED 3 
days ago for evaluation of right lower extremity numbness that 
started now 5 days 
ago. She reports no resolution of her RLE coolness and numbness 
since her last visit. At her previous visit, she has had a CTA w 

bilateral runoff that was negative for occlusion and thus was 
discharged home from the ED. Patient reports that she has been 
having lymphedema-related tightness of her RLE since her 
resection of atypical lipomatous tumor ___. On ___ (2 
days ago), patient was stretching her leg to relieve her 
tightness when she suddenly felt numbness of her RLE that is 
more 
severe to the lateral aspect and dorsum of her foot. She does 
not 
endorse pain, but notes her right foot to be slightly cooler 
than 
the left. She is able to ambulate but feels "as though her leg 
is 
asleep". She is otherwise feeling well without cough, dyspnea, 
or 
chest pain.
 
Past Medical History:
PAST MEDICAL HISTORY: h/o Ewing sarcoma ___ years ago) 

PAST SURGICAL HISTORY: expandable proximal femur replacement 
___- ___ years ago) 
 
Social History:
___
Family History:
NA
 
Physical Exam:
Discharge PE:

Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline, Thyroid normal size, 
non-tender, no masses or nodules, No right carotid bruit, No 
left 
carotid bruit. 
Nodes: No clavicular/cervical adenopathy, No inguinal 
adenopathy. 

Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended, No masses, Guarding or rebound, 

No hepatosplenomegally, No hernia, No AAA. 
Extremities:  RLE warm and restored cooler. LLE: Normal
Pulse Exam (P=Palpation, D=Dopplerable, N=None) 
RLE Femoral: P. Popiteal: P. DP: p. ___: P. 
LLE Femoral: P. Popiteal: P. DP: D. ___: D. 
 
Pertinent Results:
___ 02:45PM BLOOD WBC-10.7* RBC-4.83 Hgb-13.8 Hct-42.6 
MCV-88 MCH-28.6 MCHC-32.4 RDW-13.5 RDWSD-43.1 Plt ___
___ 02:45PM BLOOD Neuts-68.1 ___ Monos-7.3 Eos-0.8* 
Baso-0.4 Im ___ AbsNeut-7.26* AbsLymp-2.45 AbsMono-0.78 
AbsEos-0.08 AbsBaso-0.04
___ 09:24AM BLOOD PTT-112.4*
___ 05:50AM BLOOD ___ PTT-77.1* ___
___ 02:45PM BLOOD Plt ___
___ 02:45PM BLOOD ___ PTT-32.5 ___
___ 02:45PM BLOOD HCG-<5
___ 02:45PM BLOOD LtGrnHD-HOLD
___ 02:45PM BLOOD GreenHd-HOLD
___ 02:45PM BLOOD
 
Brief Hospital Course:
Ms. ___ is ___ F was admitted ___ on ___ for her 
RLE coolness numbness. patient was taken to the OR on ___ 
thrombectomy, PTA/stent R SFA occlusion w distal embolic filter. 
she tolerated the procedure well and was transferred to the PACU 
in stable condition, after a brief period of time in the PACU 
patient was transferred to the floor and started post-angio 
protocol,continue hep gtt x 24 hours, she did well on the floor 
but couldn't be discharged POD0 to monitor L groin, and was 
discharged home on Plavix x 30 days POD1 ___.
 
Medications on Admission:
acetaminophen-codeine 
gabapentin 
oxycodone 
calcium carbonate-vitamin D3 [Calcium+D] 
famotidine [Acid Reducer (famotidine)] 
ibuprofen 
 
Discharge Medications:
Clopidogrel 75 mg PO ONCE X 30 days
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
 Right lower extremity limb ischemia
 
Discharge Condition:
patient , awake, alert, and Oriented X3.

 
Discharge Instructions:
Call ___ for any of the following:
•You feel lightheaded, short of breath, and have chest pain.
•You cough up blood.
Contact your healthcare provider ___:
•You have questions or concerns about your conditions or care.
Medicines: take as instructed by your doctor.

Slowly return to your normal activities:

Walk around often and return to your activities as directed by 
your healthcare provider. Avoid strenuous activity for 3 weeks. 
Do not drive until your healthcare provider says it is okay. You 
may need to wait a week or longer before you can start driving 
again.
Wound care:
•Keep your incision wound clean and dry. Ask your healthcare 
provider when you can bathe. You will need to keep the bandage 
in place and dry for a day or two after your procedure. Cover 
the bandage with a plastic bag and tape the opening around your 
skin to keep water out. When you are allowed to bathe without a 
bandage, carefully wash the wound with soap and water. Check the 
wound daily for signs of infection, such as redness, swelling, 
or pus. Dry the area and put on new, clean bandages as directed. 
Change your bandage if it gets wet or dirty.
•Watch for bleeding and bruising. It is normal to have a bruise 
and soreness where the catheter went in. Contact your healthcare 
provider if your bruise gets larger. If your wound bleeds, use 
your hand to put pressure on the bandage. If you do not have a 
bandage, use a clean cloth to put pressure over and just above 
the puncture site. Seek care immediately if the bleeding does 
not stop within 10 minutes.
•Apply ice to the incision wound as directed. Ice can help 
reduce pain, swelling, and bruising. Use an ice pack, or put 
crushed ice in a plastic bag. Cover the ice pack or bag with a 
towel and apply it to the wound for 20 minutes every hour, or as 
directed.
Wear pressure stockings as directed:

Pressure stockings help keep blood from pooling in your leg 
veins. Your healthcare provider can prescribe stockings that are 
right for you. Do not buy over-the-counter pressure stockings 
unless your healthcare provider says it is okay. They may not 
fit correctly or may have elastic that cuts off your 
circulation. Ask your healthcare provider when to start wearing 
pressure stockings and how long to wear them each day.
Prevent another blood clot:
•Keep your legs elevated as directed. Keep your legs above the 
level of your heart when you are sitting. Prop your legs on 
pillows to keep them elevated comfortably. Ask how long to keep 
your legs elevated each day. You will need to balance elevation 
with movement to prevent blood clots.
•Stay active. Your healthcare provider ___ tell you when it is 
safe to start doing your normal daily activities. Go slowly at 
first. Then increase your activity. An active lifestyle can help 
prevent blood clots. Try to get at least 30 minutes of activity 
on most days of the week. If you sit most of the day for work, 
stand or walk around every half hour. After a future injury or 
illness, try to become active again as soon as possible. 
Activity can also help you manage your weight. Extra body weight 
can put pressure on your leg veins and cause blood to pool. This 
increases your risk for another blood clot.
•Do not smoke. Nicotine and other chemicals in cigarettes and 
cigars can cause blood vessel and lung damage. Ask your 
healthcare provider for information if you currently smoke and 
need help to quit. E-cigarettes or smokeless tobacco still 
contain nicotine. Talk to your healthcare provider before you 
use these products.
•Limit alcohol. Do not drink alcohol for 24 hours after your 
procedure. Then limit alcohol. Women should limit alcohol to 1 
drink a day. Men should limit alcohol to 2 drinks a day. A drink 
of alcohol is 12 ounces of beer, 5 ounces of wine, or 1½ ounces 
of liquor.
•Manage other health conditions. Follow your healthcare 
provider's directions to manage health conditions that can cause 
a blood clot. Examples are high cholesterol and diabetes.
•Drink liquids as directed. Liquid can help prevent blood clots. 
Ask your healthcare provider how much liquid to drink each day 
and which liquids are best for you.

 
Followup Instructions:
___